US08030304B2
N1-{5-[7-(1-Ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-4-trifluoromethyl-thiazol-2-yl}-ethane-1,2-diamine, hydrochloride
Add (2-{5-[7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-4-trifluoromethyl-thiazol-2-ylamino}-ethyl)-carbamic acid tert-butyl ester (101 mg, 0.192 mmol) to 1 M HCl in methanol (1 mL). Heat the reaction at 70° C. overnight. Cool the reaction and concentrate under vacuum from methanol/ethyl acetate. Triturate the resulting residue with ethyl acetate to obtain the title compound (64 mg, 78%). ES/MS m/z 427.0 (M+1)+.

reactant | (2-{5-[7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-4-trifluoromethyl-thiazol-2-ylamino}-ethyl)-carbamic acid tert-butyl ester | 0.192 mmol, 101 mg | C(C)(C)(C)OC(NCCNC=1SC(=C(N1)C(F)(F)F)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C)=O | C24H33F3N6O2S
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | N1-{5-[7-(1-Ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-4-trifluoromethyl-thiazol-2-yl}-ethane-1,2-diamine, hydrochloride | 64 mg, 78% | Cl.C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=C(N=C(S2)NCCN)C(F)(F)F)C)C | InChI=1S/C19H25F3N6S.ClH/c1-5-12(6-2)13-9-10(3)25-17-14(11(4)27-28(13)17)15-16(19(20,21)22)26-18(29-15)24-8-7-23;/h9,12H,5-8,23H2,1-4H3,(H,24,26);1H
